US08754107B2
To a suspension of [1-(imidazole-1-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (preparation #2) (5.1 g, 18 mmol) in MeCN (50 mL) was added methyl iodide (4.5 mL, 73 mmol) and the reaction mixture was stirred at ambient temperature for about 1.5 h. Additional methyl iodide (2.0 mL, 32 mol) was added and stirring resumed for about 16 h. The reaction mixture was concentrated in vacuo to afford 3-(3-tert-butoxycarbonylamino-pyrrolidine-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide (1.89 g, 100%) as an orange solid which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method d) Rt 1.77 min; m/z: (M+H)+ 295.

reactant | [1-(imidazole-1-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 18 mmol, 5.1 g | C(C)(C)(C)OC(NC1CN(CC1)C(=O)N1C=NC=C1)=O | C13H20N4O3
reactant | methyl iodide | 73 mmol, 4.5 mL | CI | CH3I
reactant | methyl iodide | 32 mol, 2.0 mL | CI | CH3I
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 3-(3-tert-butoxycarbonylamino-pyrrolidine-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | 1.89 g, 100% | [I-].C(C)(C)(C)OC(=O)NC1CN(CC1)C(=O)N1C=[N+](C=C1)C | InChI=1S/C14H22N4O3.HI/c1-14(2,3)21-12(19)15-11-5-6-17(9-11)13(20)18-8-7-16(4)10-18;/h7-8,10-11H,5-6,9H2,1-4H3;1H
